US04853469
Preparation of 4-hydroxymethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione [compound (XVII)]
Triethylammonium N-(2,3,4-trifluorophenyl)dithiocarbamate (81.2 g) prepared in the same manner as in Reference Example 1 was added to ethanol (800 ml) and thereto 1-acetoxy-3-chloroacetone (37.7 g) was added dropwise at 5° to 7° C. with stirring over a period of 20 minutes. After stirring the mixture for 50 minutes, 10% solution of hydrogen chloride in ethanol (240 ml) was added and the mixture was refluxed for 3 hours. After the solvent was distilled off under the reduced pressure, cooled water was added to the residue and resultant was extracted with chloroform. The extract was washed with a NaCl solution and dried over anhydrous sodium sulfate, followed by distilling off the solvent under reduced pressure. The residue was recrystallized from a mixed solvent of hexane-ethyl acetate to give the title compound (59 g) as pale yellow crystals. The compound had physical properties identical to those of 4-hydroxymethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione prepared in the above Reference Example 18.

reactant | Triethylammonium N-(2,3,4-trifluorophenyl)dithiocarbamate | 81.2 g | FC1=C(C=CC(=C1F)F)NC([S-])=S.C(C)[NH+](CC)CC
reactant | 1-acetoxy-3-chloroacetone | 37.7 g | C(C)(=O)OCC(=O)CCl | C5H7ClO3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 240 ml | C(C)O | C2H6O
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 4-hydroxymethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione | 59 g | OCC=1N(C(SC1)=S)C1=C(C(=C(C=C1)F)F)F | C10H6F3NOS2
